US04182865
A solution of 1.5 g (0.004 mole) of methyl N-(1-methylimidazol-2-yl)-N'-phenylcarbamimidothioate hydroiodide and 0.73 g (0.0084 mole) of morpholine in 30 ml of t-BuOH is refluxed overnight. Upon cooling, ether is added and morpholine hydroiodide is removed by filtration. The filtrate is taken to dryness and the residue is taken up in CH2Cl2 and converted to the free base with 3 N NaOH. The organic layer is separated, dried over K2CO3, filtered and the solvent is removed in vacuo to give a residue of N-(1-methylimidazol-2-yl)-N'-phenyl-4-morpholine carboximidamide, which is taken up in acetone and converted to the hydrochloride salt with ethereal HCl.

reactant | methyl N-(1-methylimidazol-2-yl)-N'-phenylcarbamimidothioate hydroiodide | 0.004 mole, 1.5 g | I.CN1C(=NC=C1)NC(=NC1=CC=CC=C1)SC
reactant | morpholine | 0.0084 mole, 0.73 g | N1CCOCC1 | C4H9NO
reactant | ether | CCOCC | C4H10O
solvent | t-BuOH | 30 ml | CC(C)(C)O | C4H10O
product | N-(1-methylimidazol-2-yl)-N'-phenyl-4-morpholine carboximidamide | CN1C(=NC=C1)NC(=NC1=CC=CC=C1)N1CCOCC1 | C15H19N5O
